US07612075B2
To a solution of 4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-1-[1-(2-chloro-pyrimidin-4-yl)-piperidin-4-ylmethyl]-piperazin-2-one (17 mg, 0.031 mmole) in ethanol (1 mL) is added a 40% solution of dimethylamine (11 mg, 0.094 mmole). This mixture is heated at 80° C. in a sealed tube 16 h. The reaction is concentrated and lyophilized to provide 4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-1-[1-(2-dimethylamino-pyrimidin-4-yl)-piperidin-4-ylmethyl]-piperazin-2-one. 1H NMR (300 MHz, CDCl3) d 7.93-7.84 (m, 4H), 7.48 (dd, 1H), 5.84 (d, 1H), 4.32 (d, 2H), 3.87 (s, 2H), 3.47 (s, 4H), 3.26 (d, 2H), 3.14 (s, 6H), 1.99-1.90 (m, 1H), 1.62 (d, 2H), 1.27-1.17 (m, 2H); MS (Ion spray) 549 (M+H)+.

reactant | 4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-1-[1-(2-chloro-pyrimidin-4-yl)-piperidin-4-ylmethyl]-piperazin-2-one | 0.031 mmole, 17 mg | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(N(CC2)CC2CCN(CC2)C2=NC(=NC=C2)Cl)=O)C1 | C22H23Cl2N5O3S2
reactant | dimethylamine | 0.094 mmole, 11 mg | CNC | C2H7N
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 4-(6-chloro-benzo[b]thiophene-2-sulfonyl)-1-[1-(2-dimethylamino-pyrimidin-4-yl)-piperidin-4-ylmethyl]-piperazin-2-one | ClC=1C=CC2=C(SC(=C2)S(=O)(=O)N2CC(N(CC2)CC2CCN(CC2)C2=NC(=NC=C2)N(C)C)=O)C1 | C24H29ClN6O3S2
